US04710573
A stirred mixture of 21.8 g of 4-(2-fluorobenzoyl)-1-methylpiperidine, 20.25 g of 4-fluorophenyl hydrazine hydrochloride and 25.0 g of sodium acetate in 420 ml of n-butanol was heated under reflux for 8 hrs. The mixture was cooled, filtered, and concentrated. The residue was washed with ether to give 7.5 g (23%) of 4-(2-fluorobenzoyl)-1-methylpiperidine 4-fluorophenylhydrazone, mp 125°-126° C.

reactant | 4-(2-fluorobenzoyl)-1-methylpiperidine | 21.8 g | FC1=C(C(=O)C2CCN(CC2)C)C=CC=C1 | C13H16FNO
reactant | 4-fluorophenyl hydrazine hydrochloride | 20.25 g | Cl.FC1=CC=C(C=C1)NN
reactant | sodium acetate | 25.0 g | C(C)(=O)[O-].[Na+]
solvent | n-butanol | 420 ml | C(CCC)O | C4H10O
product | 4-(2-fluorobenzoyl)-1-methylpiperidine 4-fluorophenylhydrazone | 7.5 g, 23% | FC1=CC=C(C=C1)NN=C(C1=C(C=CC=C1)F)C1CCN(CC1)C | C19H21F2N3
